US07186716B2
5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid ethyl ester
A mixture of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-carboxylic acid ethyl ester (1.2 g, 4.32 mmol) and hydrazine hydrate (6.27 mL) in ethanol (50 mL) was heated at 80° C. for 24 hours. The reaction was concentrated and the residue was neutralized to pH 7 with 1N HCl, extracted with ethyl acetate. The combined ethyl acetate was dried, concentrated and purified on a silica gel column to give the titled compound as a white solid.

reactant | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 4.32 mmol, 1.2 g | C(C)OC(=O)C1=CNC(=C1)C(=O)C=1C(=NC=CC1)Cl | C13H11ClN2O3
reactant | hydrazine hydrate | 6.27 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-(1H-Pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC(=C1)C1=NNC2=NC=CC=C21 | C13H12N4O2
